US03931177
3-(3-Benzyloxy-4-cyanobenzoyl)propionic acid was warmed with 33% hydrogen bromide in acetic acid and the solution was poured into ice-water to give 3-(4-cyano-3-hydroxybenzoyl) propionic acid.

reactant | 3-(3-Benzyloxy-4-cyanobenzoyl)propionic acid | C(C1=CC=CC=C1)OC=1C=C(C(=O)CCC(=O)O)C=CC1C#N | C18H15NO4
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(4-cyano-3-hydroxybenzoyl) propionic acid | C(#N)C1=C(C=C(C(=O)CCC(=O)O)C=C1)O | C11H9NO4
